US04588434
20 g of cyclohexyl 2-chloro-4-isocyanatothiobenzoate in 80 ml of toluene were added dropwise to excess aqueous dimethylamine solution at room temperature. The mixture was kept at room temperature, stirred overnight and then filtered under suction. 16.3 g of N-(3-chloro-4-cyclohexylmercaptocarbonylphenyl)-N',N'-dimethylurea (compound no. 35) were obtained.

reactant | cyclohexyl 2-chloro-4-isocyanatothiobenzoate | 20 g | ClC1=C(C(=S)OC2CCCCC2)C=CC(=C1)N=C=O | C14H14ClNO2S
reactant | dimethylamine | CNC | C2H7N
solvent | toluene | 80 ml | C1(=CC=CC=C1)C | C7H8
product | N-(3-chloro-4-cyclohexylmercaptocarbonylphenyl)-N',N'-dimethylurea | 16.3 g | ClC=1C=C(C=CC1C(=O)SC1CCCCC1)NC(=O)N(C)C | C16H21ClN2O2S
